* sw like an NMOS inverter with resistive load
.subckt invertern In Out VDD DGND
*sp out vdd in vdd swswitch on
Rl out vdd 10k
Cl out dgnd 0.1p
*C2 out vdd 0.1p
sn out dgnd in dgnd swswitch off
.ends invertern

* sw like a PMOS inverter with resistive load
.subckt inverterp In Out VDD DGND
sp out vdd vdd in swswitch
Rl out 0 10k
*Cl out dgnd 0.1p
C2 out vdd 0.1p
*sn out dgnd in dgnd swswitch off
.ends inverterp

* sw like a CMOS inverter
.subckt inverter In Out VDD DGND
sp out vdd vdd in swswitch
*Rl out 0 10k
Cl out dgnd 0.1p
C2 out vdd 0.1p
sn out dgnd in dgnd swswitch
.ends inverter

.model swswitch sw (vt=1 vh=0.1 ron=1k roff=1e12)
.model switchn sw (vt=1 vh=0.1 ron=1k roff=1e12)

* sw like a CMOS inverter with PSPICE VSWITCH
.subckt invertervs In Out VDD DGND
sp out vdd vdd in swn
*Rl out 0 10k
Cl out dgnd 0.1p
C2 out vdd 0.1p
sn out dgnd in dgnd swn
.ends invertervs

.MODEL SWN VSWITCH ( VON = 1.1 VOFF = 0.9 RON=1k  ROFF=1e12 )


* sw like a CMOS inverter with PSPICE VSWITCH
.subckt invertervs2 In Out VDD DGND
sp out vdd vdd in swn
*Rl out 0 10k
Cl out dgnd 0.1p
C2 out vdd 0.1p
sn out dgnd in dgnd swn
.MODEL SWN VSWITCH ( VON = 1.1 VOFF = 0.9 RON=1k  ROFF=1e12 )
.ends invertervs2



